US04174405
A mixture of 89 g (0.46 mole) of 2-(m-chlorophenyl)thiophene, 400 ml of reagent carbon tetrachloride, 54 ml (67 g, 0.46 mole) of benzenesulfenyl chloride and 0.05 g of iron powder was allowed to stand for four days at room temperature. A further 12 ml (15 g, 0.10 mole) of benzenesulfenyl chloride and 0.05 g of iron powder were added. After four days the carbon tetrachloride was removed by distillation. The residue was distilled at reduced pressure to give 30 g (22%) of 2-(m-chlorophenyl)-5-(phenylthio)thiophene, b.p. 200°-205° C. (0.15 mm).

reactant | 2-(m-chlorophenyl)thiophene | 0.46 mole, 89 g | ClC=1C=C(C=CC1)C=1SC=CC1 | C10H7ClS
reactant | benzenesulfenyl chloride | 0.46 mole, 54 ml, 67 g | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | benzenesulfenyl chloride | 0.10 mole, 12 ml, 15 g | C1(=CC=CC=C1)SCl | C6H5ClS
catalyst | iron | 0.05 g | [Fe] | Fe
catalyst | iron | 0.05 g | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(m-chlorophenyl)-5-(phenylthio)thiophene | 30 g, 22% | ClC=1C=C(C=CC1)C=1SC(=CC1)SC1=CC=CC=C1 | C16H11ClS2
